US04340740
Butylmercaptan (105 mg) was dissolved in 1 ml of methanol, and 0.4 ml of a 2.7 M methanol solution of sodium methoxide was added at room temperature. The solution was added dropwise to 2 ml of a 1,2-dimethoxyethane solution of 391 mg of O-(p-toluenesulfonyl)-m-benzoylmandelonitrile in an argon atmosphere under ice cooling. The mixture was stirred for 1 hour under ice cooling, and 20 ml of water was added. The mixture was extracted with 20 ml of methylene chloride three times. The extract was washed with 10 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was separated by column chromatography (silica gel; benzene) to afford 95 mg (yield 31%) of alpha-(butylthio)(m-benzoylphenyl)acetonitrile as a colorless oil.

reactant | Butylmercaptan | 105 mg | C(CCC)S | C4H10S
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
reactant | O-(p-toluenesulfonyl)-m-benzoylmandelonitrile | 391 mg | C1(=CC=C(C=C1)S(=O)(=O)OC(C#N)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C22H17NO4S
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 2.7 M | CO | CH4O
solvent | water | 20 ml | O | H2O
product | alpha-(butylthio)(m-benzoylphenyl)acetonitrile | 95 mg, yield 31% | C(CCC)SC(C#N)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C19H19NOS
